US08110575B2
5-(2-(2-ethyl-6-fluorindoline-1-carbonyl)pyridin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
186 mg (0.50 mmol) 4-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)picolinic acid, 220 mg (0.60 mmol) 2-ethyl-6-fluoro-2,3-dihydro-1H-indole, 0.26 mL (1.5 mmol) DIPEA and 0.18 g (0.55 mmol) TBTU in 5.0 mL DMF were stirred overnight at RT. The purification was carried out by preparative HPLC-MS. The product-containing fractions were combined and the organic solvent was evaporated down. The aqueous residue was made alkaline with 1N aqueous sodium hydroxide solution, the precipitate formed was suction filtered, washed with water and dried under HV.

reactant | 4-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)picolinic acid | 0.50 mmol, 186 mg | O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=C2)C(=O)O | C21H16N4O3
reactant | 2-ethyl-6-fluoro-2,3-dihydro-1H-indole | 0.60 mmol, 220 mg | C(C)C1NC2=CC(=CC=C2C1)F | C10H12FN
reactant | DIPEA | 1.5 mmol, 0.26 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.55 mmol, 0.18 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 5-(2-(2-ethyl-6-fluorindoline-1-carbonyl)pyridin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | C(C)C1N(C2=CC(=CC=C2C1)F)C(=O)C1=NC=CC(=C1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C31H26FN5O2
